US07842696B2
DIPEA (375 μL, 2.17 mmol) was added drop wise to 3-hydroxy benzoic acid (100 mg, 0.72 mmol) in DMF (4 mL). EDCI (208 mg, 1.09 mmol) and HOBT (117 mg, 0.87 mmol) were added consecutively and after 15 mins, glycine ethyl ester HCl (120 mg, 0.87 mmoles) was added. The resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford (3-Hydroxy-benzoyl amino)-acetic acid ethyl ester in quantitative yield.

reactant | DIPEA | 2.17 mmol, 375 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-hydroxy benzoic acid | 0.72 mmol, 100 mg | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | EDCI | 1.09 mmol, 208 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.87 mmol, 117 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | glycine ethyl ester HCl | 0.87 mmoles, 120 mg | Cl.C(C)OC(CN)=O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (3-Hydroxy-benzoyl amino)-acetic acid ethyl ester | quantitative yield | C(C)OC(CNC(C1=CC(=CC=C1)O)=O)=O | C11H13NO4
